US07612075B2
D. 4-(1-Benzenesulfonyl-4-chloro-1H-pyrrolo[3,2-c]pyridin-2-ylmethyl)-3-oxo-piperazine-1-carboxylic acid benzyl ester.
Powdered NaOH (0.96 g, 23.9 mmol) followed by nBu4NHSO4 (0.32 g, 0.96 mmol) and benzene sulfonyl chloride (1.8 mL, 14.1 mmol) is added to a solution of 4-(4-chloro-1H-pyrrolo[3,2-c]pyridin-2-ylmethyl)-3-oxo-piperazine-1-carboxylic acid benzyl ester (3.81 g, 9.56 mmol) in CH2Cl2(32 mL) at RT. The resulting slurry is stirred for 3.5 h then diluted with CH2Cl2 and washed with saturated NaHCO3 and brine. The organic layer is dried over MgSO4, filtered and concentrated to dryness. The crude product is chromatographed eluting with 1-5% MeOH/CH2Cl2 to yield the title product (5.06 g, 9.38 mmol). 1H NMR (CDCl3, 300 MHz) δ8.23 (d, 1H), 7.97 (d, 1H), 7.84 (d, 2H), 7.61 (d, 1H), 7.51 (m, 2H), 7.38 (s, 5H), 6.50 (s, 1H), 5.18 (s, 2H), 5.03 (s, 2H), 4.29 (s, 2H), 4.29 (s, 2H), 3.80 (m, 2H), 3.51 (m, 2H). Ion spray [M+H]+=539, 541, Cl pattern.

reactant | NaOH | 23.9 mmol, 0.96 g | [OH-].[Na+]
reactant | benzene sulfonyl chloride | 14.1 mmol, 1.8 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | 4-(4-chloro-1H-pyrrolo[3,2-c]pyridin-2-ylmethyl)-3-oxo-piperazine-1-carboxylic acid benzyl ester | 9.56 mmol, 3.81 g | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)CC1=CC=2C(=NC=CC2N1)Cl)=O | C20H19ClN4O3
catalyst | nBu4NHSO4 | 0.96 mmol, 0.32 g | [N+](CCCC)(CCCC)(CCCC)CCCC.[O-]S(=O)(=O)O
solvent | CH2Cl2 | 32 mL | C(Cl)Cl | CH2Cl2
product | 4-(1-Benzenesulfonyl-4-chloro-1H-pyrrolo[3,2-c]pyridin-2-ylmethyl)-3-oxo-piperazine-1-carboxylic acid benzyl ester | 9.38 mmol, 5.06 g | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)CC1=CC=2C(=NC=CC2N1S(=O)(=O)C1=CC=CC=C1)Cl)=O | C26H23ClN4O5S
